* Z:\mnt\design.r\spice\examples\3503.asc
V1 IN 0 15
C1 N001 N002 .1µ
L1 N002 OUT 2µ Rpar=2K
R1 OUT N004 32.4K
R2 0 N004 10K
D1 0 N002 MBRS340
C2 OUT 0 10µ
D2 OUT N001 BAT54
C3 OUT N004 22p
R3 IN N003 100K
C4 N003 0 .1µ
XU1 N004 0 N001 N002 IN N003 LT3503
Rload OUT 0 2.7
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT3503.sub
.backanno
.end
